US07465731B2
To a solution of ethyl (2E)-3-{5-[(3R)-3-piperidinylamino]-2-pyrazinyl)acrylate dihydrochloride (300 mg, 0.86 mmol) in DMF (6 mL) were added diiopropylethylamine (366 mg, 2.84 mmol) and 6-chloropyrimidine (128 mg, 1.11 mmol) at ambient temperature and the mixture was stirred at ambient temperature for 18 hrs. The reaction mixture was evaporated in vacuo and the residue was partitioned between water and EtOAc. The organic layer was separated, washed water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform-MeOH=95-5/hexane-EtOAc=1/4) to give ethyl (2E)-3-(5-{[(3R)-1-(2-pyrimidinyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylate (141 mg, 46%) as an amorphous powder.

reactant | ethyl (2E)-3-{5-[(3R)-3-piperidinylamino]-2-pyrazinyl)acrylate dihydrochloride | 0.86 mmol, 300 mg | Cl.Cl.N1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC
reactant | 6-chloropyrimidine | 1.11 mmol, 128 mg | ClC1=CC=NC=N1 | C4H3ClN2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-(5-{[(3R)-1-(2-pyrimidinyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylate | 141 mg, 46% | N1=C(N=CC=C1)N1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC | C18H22N6O2
